US07714126B2
Preparation of (2-ethoxy-ethyl)-methyl-(5-nitro-pyridin-2-yl)-amine
(2-Hydroxy-ethyl)-methyl-(5-nitro-pyridin-2-yl)-amine (197 mg, 1 mmol) in THF (5 mL) and DMF (2 mL) was stirred with 60% NaH in oil (48 mg, 1.2 mmol) for 1 hr. The mixture was cooled and to this was added ethyl iodide (120 uL, 1.5 mmol). The reaction was allowed to stir overnight. The mixture was diluted with EtOAc, extracted with H2O and dried over MgSO4. The EtOAc layer was filtered, evaporated to dryness and used without further purification. Yield: 155 mg. ES-MS calcd for C10H15N3O3 (m/e) 225.25, obsd 225.1 (M+H).

reactant | (2-Hydroxy-ethyl)-methyl-(5-nitro-pyridin-2-yl)-amine | 1 mmol, 197 mg | OCCN(C1=NC=C(C=C1)[N+](=O)[O-])C | C8H11N3O3
reactant | NaH | [H-].[Na+]
reactant | ethyl iodide | 1.5 mmol, 120 uL | C(C)I | C2H5I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-ethoxy-ethyl)-methyl-(5-nitro-pyridin-2-yl)-amine | C(C)OCCN(C1=NC=C(C=C1)[N+](=O)[O-])C | C10H15N3O3
